US05237063
b) 2-Chloro-4-trichloromethoxy-6-trichloromethylpyrimidine
The gas chromatogram of the filtrate (113.8 g) showed that it was composed of 83% title compound, 4% 2-chloro-4-dichloromethoxy-6-trichloromethylpyrimidine and 9% 2,4-dichloro-6-trichloromethylpyrimidine. The total yield of the title compound was 87.6% of theory.

reactant | 2-chloro-4-dichloromethoxy-6-trichloromethylpyrimidine | ClC1=NC(=CC(=N1)OC(Cl)Cl)C(Cl)(Cl)Cl | C6H2Cl6N2O
reactant | 2,4-dichloro-6-trichloromethylpyrimidine | ClC1=NC(=CC(=N1)Cl)C(Cl)(Cl)Cl | C5HCl5N2
product | 2-Chloro-4-trichloromethoxy-6-trichloromethylpyrimidine | 83% | ClC1=NC(=CC(=N1)OC(Cl)(Cl)Cl)C(Cl)(Cl)Cl | C6HCl7N2O
